US08440689B2
B. 6-((1R,2S)-2-Aminocyclohexylamino)-7-chloro-4-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one
A solution of tert-butyl (1S,2R)-2-(7-chloro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate (10.00 mg, 0.022 mmol) in HCl (0.5 mL, 16.46 mmol) and HOAc (1 mL) was stirred at RT for 30 min. The reaction mixture was concentrated and the resulting residue was washed with IPE to give the HCl salt of the title compound (5 mg, 63.9%). 1H NMR (500 MHz, DMSO-d6) δ ppm 1.48-1.97 (m, 8H), 3.72-3.78 (m, 1H), 3.96 (br s, 3H), 4.35 (d, J=4.88 Hz, 2H), 4.57 (br s, 1H), 6.29 (d, J=6.83 Hz, 1H), 7.93 (br s, 2H), 8.40-8.45 (m, 1H), 8.49 (s, 1H), 8.98 (s, 1H). [M+H] calc'd for C17H21ClN6O, 361. found, 361.

reactant | tert-butyl (1S,2R)-2-(7-chloro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate | 0.022 mmol, 10.00 mg | ClC=1C2=C(C(=NC1N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)C=1C=NN(C1)C)C(NC2)=O | C22H29ClN6O3
reactant | HCl | 16.46 mmol, 0.5 mL | Cl | ClH
solvent | HOAc | 1 mL | CC(=O)O | C2H4O2
product | 6-((1R,2S)-2-Aminocyclohexylamino)-7-chloro-4-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 5 mg, 63.9% | N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C=1C=NN(C1)C)C(NC2)=O)Cl | C17H21ClN6O
